US05721248
Ethyl 5-cyano-1,4-dihydro-2,6-dimethyl-4-(2-phenyl-4H-1-benzothiopyran-8-yl)-3-pyridinecarboxylate
3 mmol of Ethyl 5-cyano-1,4-dihydro-2,6-dimethyl-4-(4-oxo-2-phenyl-4H-1-benzothiopyran-8-yl)-3-pyridinecarboxylate (DE 33 11 005) and 15 mmol of NaBH4 are initially introduced into 10 ml of t-butanol, 1.8 ml of MeOH are added at 60° C. and the mixture is kept at 65° C. for 8 hours. Customary working up gives the title compound.

reactant | Ethyl 5-cyano-1,4-dihydro-2,6-dimethyl-4-(4-oxo-2-phenyl-4H-1-benzothiopyran-8-yl)-3-pyridinecarboxylate | 3 mmol | C(#N)C=1C(C(=C(NC1C)C)C(=O)OCC)C1=CC=CC=2C(C=C(SC21)C2=CC=CC=C2)=O | C26H22N2O3S
reactant | NaBH4 | 15 mmol | [BH4-].[Na+]
reactant | t-butanol | 10 ml | C(C)(C)(C)O | C4H10O
solvent | MeOH | 1.8 ml | CO | CH4O
product | Ethyl 5-cyano-1,4-dihydro-2,6-dimethyl-4-(2-phenyl-4H-1-benzothiopyran-8-yl)-3-pyridinecarboxylate | C(#N)C=1C(C(=C(NC1C)C)C(=O)OCC)C1=CC=CC=2CC=C(SC21)C2=CC=CC=C2 | C26H24N2O2S
